US05760037
Preparation of N,N'-bis-(1H-benzoimidazole-2-ylmethyl)-N,N'-bis-(3,4,5-trimethoxybenzyl) ethylenediamine
1.5 g N,N'-bis-(3,4,5-trimethoxybenzyl) ethylenediamine dichlorhydrate were solubilized in 30 ml 1:1 ethanol/water mixture. The pH of the solution was brought to 11 using a soda solution. A solution of 1.1 g 2-chloromethyl benzimidazole in solution in 30 ml ethanol was added all at once. The mixture was heated for 5 hours at 45° C. while keeping the pH at between 10 and 11 by adding a soda solution. After cooling, the ethanol was evaporated in a vacuum, and the medium was cooled to 0° C. The precipitate formed was filtered and washed with water. The solid was taken up in 15 ml water +0.5 ml concentrated HCl, then filtered and washed in water. The solid was then recrystallized in 10 ml of a 98:2 water/ethanol mixture. 350 mg of a white powder having a melting point of 150° C. (dec.) were obtained, whose proton NMR spectrum (400 MHZ) and ultimate analysis matched the expected structure (in the form of dichlorhydrate).

reactant | N,N'-bis-(3,4,5-trimethoxybenzyl) ethylenediamine | 1.5 g | COC=1C=C(CNCCNCC2=CC(=C(C(=C2)OC)OC)OC)C=C(C1OC)OC | C22H32N2O6
reactant | ethanol water | C(C)O.O
reactant | 2-chloromethyl benzimidazole | 1.1 g | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N,N'-bis-(1H-benzoimidazole-2-ylmethyl)-N,N'-bis-(3,4,5-trimethoxybenzyl) ethylenediamine | N1C(=NC2=C1C=CC=C2)CN(CCN(CC2=CC(=C(C(=C2)OC)OC)OC)CC2=NC1=C(N2)C=CC=C1)CC1=CC(=C(C(=C1)OC)OC)OC | C38H44N6O6
